US06982260B1
2-Chloro-8-isopropyl-7-methoxy-quinazoline
7-Methoxy-8-(2-propyl)quinazol-2(1H)-one (1.2 g) was dissolved in 25 mL of phosphorus oxychloride, and the resulting reaction mixture was heated at 110° C. for 2 hours. Excess POCl3 was removed under reduced pressure. To the residue ice-cold water was added, and the product was extracted with ethyl acetate (3×50 mL). The combined organic extract was washed with brine, dried over anhydrous sodium sulfate, and concentrated to give the title compound. This was purified on a column of silica gel (Hexane:Ethyl acetate), off-white solid, (780 mg, 60%), mp 135–137° C.; 1H NMR (CDCl3): δ 1.41 (d, 6H, 2×CH3), 4.02 (s, 3H, OCH3), 4.33 (m, 1H, CH), 7.38 (d, 1H, Ar-H, J=9 Hz), 7.8 (d, 1H, Ar-H, J=9 Hz), 9.1 (s, 1H, Ar-H).

reactant | 7-Methoxy-8-(2-propyl)quinazol-2(1H)-one | 1.2 g | COC1=CC=C2C=NC(NC2=C1C(C)C)=O | C12H14N2O2
reactant | phosphorus oxychloride | 25 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-Chloro-8-isopropyl-7-methoxy-quinazoline | ClC1=NC2=C(C(=CC=C2C=N1)OC)C(C)C | C12H13ClN2O
